US06730684B1
Preparation of N-Methyl-N-(1-methyl-1H-indazol-3-ylmethyl)-2-phenylbenzamide
A solution of 2-biphenylcarboxylic acid (198 mg, 1 mmole), 1-methyl-3-(methylaminomethyl)-1H-indazole (210 mg, 1.2 mmole), EDC (230 mg, 1.2 mmole), HOBt.H2O (162 mg, 1.2 mmole), and triethylamine (0.28 mL, 2.0 mmole) in DMF (5 mL) was stirred at RT. After 18 hr, the reaction was concentrated to dryness, and the residue was purified by flash chromatography on silica gel (45% EtOAc/hexanes). The title compound (221 mg, 62%) was obtained as a white solid: MS (ES) m/e 356 (M+H)+.

reactant | 2-biphenylcarboxylic acid | 1 mmole, 198 mg | C=1(C(=CC=CC1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | 1-methyl-3-(methylaminomethyl)-1H-indazole | 1.2 mmole, 210 mg | CN1N=C(C2=CC=CC=C12)CNC | C10H13N3
reactant | EDC | 1.2 mmole, 230 mg
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 1.2 mmole, 162 mg | O | H2O
reactant | triethylamine | 2.0 mmole, 0.28 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-Methyl-N-(1-methyl-1H-indazol-3-ylmethyl)-2-phenylbenzamide | 221 mg, 62% | CN(C(C1=C(C=CC=C1)C1=CC=CC=C1)=O)CC1=NN(C2=CC=CC=C12)C | C23H21N3O
